US09353075B2
Step 2. Preparation of ethyl (2S*,3R*)-2-amino-3-hydroxy-4-methyl-pentanoate
In a pear flask, at rt, ethyl (2S*,3R*)-2-(dibenzylamino)-3-hydroxy-4-methyl-pentanoate (1.24 g, 3.5 mmol) was dissolved in EtOH (75 mL) and passed through the H-Cube® hydrogenator flow reactor, using 10% Pd/C as catalyst [flow:1.0 mL/min; P=1.0 bar, T=70° C.]. After evaporation of the solvent, the title compound (0.57 g, quant.) was obtained as yellowish oil and used without further purification in the following step. MS (ESI) m/z: 176 [M−H]+. 1H NMR (DMSO-d6) δ 0.83 (d, J=6.72 Hz, 3H), 0.90 (d, J=6.69 Hz, 3H), 1.19 (t, J=7.10 Hz, 3H), 1.64-1.80 (m, 1H), 3.29 (dd, J=3.36, 8.06 Hz, 1H), 3.35 (d, J=3.37 Hz, 1H), 4.08 (qd, J=0.99, 7.13 Hz, 2H).

reactant | ethyl (2S*,3R*)-2-(dibenzylamino)-3-hydroxy-4-methyl-pentanoate | 3.5 mmol, 1.24 g | C(C1=CC=CC=C1)N([C@H](C(=O)OCC)[C@@H](C(C)C)O)CC1=CC=CC=C1 | C22H29NO3
solvent | EtOH | 75 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | ethyl (2S*,3R*)-2-amino-3-hydroxy-4-methyl-pentanoate | 0.57 g | N[C@H](C(=O)OCC)[C@@H](C(C)C)O | C8H17NO3
